US06645991B1
40.0 g of 4-hydroxybenzaldehyde are dissolved in 400 ml of abs. THF under a protective-gas atmosphere, 55.1 g of dihydropyran and 13.7 g of pyridinium p-toluenesulfonate are added, and the mixture is stirred overnight at room temperature. The solvent is removed in a rotary evaporator, and the residue is subjected to conventional work-up, giving 4-(tetrahydropyran-2-yloxy)benzaldehyde (“BA”) as a colourless oil.

reactant | 4-hydroxybenzaldehyde | 40.0 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | dihydropyran | 55.1 g | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 13.7 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | THF | C1CCOC1 | C4H8O
product | 4-(tetrahydropyran-2-yloxy)benzaldehyde | O1C(CCCC1)OC1=CC=C(C=O)C=C1 | C12H14O3
